US07915250B2
Phenylmethyl 3-[2-(1,3-dioxolan-2-yl)ethylidene]azetidine-1-carboxylate (220 mg, 0.761 mmol), and 4-methylmorpholine N-oxide (287 mg, 2.45 mmol) were dissolved in acetone/water (4:1; 10 mL) and osmium tetroxide (4 wt. % in water; 0.05 mL) was added. The solution was stirred at ambient for 20 h, then was quenched with saturated sodium bisulfite (2 mL) and concentrated in vacuo. The residue was partitioned between ethyl acetate and brine. The aqueous portion was extracted with ethyl acetate. The combined organic portion was washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. Column chromatography (silica gel, ethyl acetate) gave phenylmethyl 3-[2-(1,3-dioxolan-2-yl)-1-hydroxyethyl]-3-hydroxyazetidine-1-carboxylate (244 mg, 0.755 mmol, 99% yield): 1H NMR (400 MHz, CDCl3): 7.38-7.28 (m, 5H), 5.11-5.07 (m, 3H), 4.14-4.01 (m, 4H), 3.96-3.86 (m, 5H), 3.47 (d, 1H), 2.97-2.94 (m, 1H), 1.98-1.84 (m, 2H).

reactant | Phenylmethyl 3-[2-(1,3-dioxolan-2-yl)ethylidene]azetidine-1-carboxylate | 0.761 mmol, 220 mg | O1C(OCC1)CC=C1CN(C1)C(=O)OCC1=CC=CC=C1 | C16H19NO4
reactant | 4-methylmorpholine N-oxide | 2.45 mmol, 287 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | acetone water | 10 mL | CC(=O)C.O
catalyst | osmium tetroxide | 0.05 mL | [Os](=O)(=O)(=O)=O
product | phenylmethyl 3-[2-(1,3-dioxolan-2-yl)-1-hydroxyethyl]-3-hydroxyazetidine-1-carboxylate | 0.755 mmol, 244 mg, 99% yield | O1C(OCC1)CC(O)C1(CN(C1)C(=O)OCC1=CC=CC=C1)O | C16H21NO6
